US07517995B2
2-(3-cyclopropyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride (XV.14)
4.00 g (15.79 mmol) tert-butyl[2-(3-cyclopropyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamate are placed in 40 ml dichloromethane, 80 ml 1 molar ethereal hydrochloric acid are added. The reaction mixture is stirred for 3 hours at reflux temperature and 72 hours at ambient temperature, then evaporated down. The residue is dissolved in acetone, mixed with diethyl ether and suction filtered.

reactant | tert-butyl[2-(3-cyclopropyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamate | 15.79 mmol, 4.00 g | C(C)(C)(C)OC(NCCC1=NC(=NO1)C1CC1)=O | C12H19N3O3
reactant | hydrochloric acid | 1 molar, 80 ml | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-(3-cyclopropyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride | Cl.C1(CC1)C1=NOC(=N1)CCN | InChI=1S/C7H11N3O.ClH/c8-4-3-6-9-7(10-11-6)5-1-2-5;/h5H,1-4,8H2;1H
